US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide (230 mg, 0.45 mmol) and ammonium hydroxide (5 ml), the title compound was obtained as a white solid (130 mg, 54.8%). 1HNMR (DMSO-d6): δ ppm 9.80 (s, 1H), 8.13-8.15 (d, J=5.6 Hz, 1H), 7.87 (brs, 2H), 7.47-7.51 (dd, J1=7.6 Hz, J2=2.0 Hz, 1H), 7.23-7.29 (m, 3H), 6.80-6.82 (t, J=2.4 Hz, 1H), 6.23-6.24 (dd, J1=2.0H, J2=2.8 Hz, 1H), 6.13-6.14 (d, J=6.0 Hz, 1H), 3.61 (s, 3H), 1.42 (s, 9H); MS: 487.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide | 0.45 mmol, 230 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CN(C=C1)C)F | C22H21ClFN5O2S2
reactant | ammonium hydroxide | 5 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CN(C=C1)C)F | InChI=1S/C22H23FN6O2S2.ClH/c1-22(2,3)20-27-18(19(32-20)16-8-10-25-21(24)26-16)14-6-5-7-15(17(14)23)28-33(30,31)13-9-11-29(4)12-13;/h5-12,28H,1-4H3,(H2,24,25,26);1H
